US07812028B2
e) 6-Chloro-5-(4-fluoro-phenyl)-nicotinic Acid Methyl Ester
The title compound was synthesized in analogy to Example 5a, using 5-bromo-6-chloro-3-pyridinecarboxylic acid methyl ester and 4-fluorophenylboronic acid as starting materials, MS (ISP) 266.1 (M+H)+.

reactant | 5-bromo-6-chloro-3-pyridinecarboxylic acid methyl ester | COC(=O)C=1C=NC(=C(C1)Br)Cl | C7H5BrClNO2
reactant | 4-fluorophenylboronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
product | 6-Chloro-5-(4-fluoro-phenyl)-nicotinic Acid Methyl Ester | COC(C1=CN=C(C(=C1)C1=CC=C(C=C1)F)Cl)=O | C13H9ClFNO2
